US05491132
To a solution of (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-thiomorpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-6-methylheptane (300 mg) in ethanol (3 ml), which was cooled to 0° C., was added a solution of 4M hydrogen chloride in ethyl acetate (0.100 ml). After being stirred at the same temperature for 10 minutes, the solution was concentrated in vacuo to give (2S,3S)-2-[Nα -[N-[N-methyl-{2-(N-thiomorpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-6-methylheptane hydrochloride (310 mg) as an amorphous powder. Rf: 0.38 (10% methanol in chloroform)

reactant | (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-thiomorpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-6-methylheptane | 300 mg | CN(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C)CCN(C)C(=O)N1CCSCC1 | C40H64N8O5S
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethyl acetate | 0.100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-2-[Nα -[N-[N-methyl-{2-(N-thiomorpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-6-methylheptane hydrochloride | 310 mg | Cl.CN(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)C)CCN(C)C(=O)N1CCSCC1 | InChI=1S/C40H64N8O5S.ClH/c1-29(2)16-17-36(49)33(24-30-12-8-6-9-13-30)43-37(50)35(26-32-27-41-28-42-32)47(5)38(51)34(25-31-14-10-7-11-15-31)44-39(52)45(3)18-19-46(4)40(53)48-20-22-54-23-21-48;/h7,10-11,14-15,27-30,33-36,49H,6,8-9,12-13,16-26H2,1-5H3,(H,41,42)(H,43,50)(H,44,52);1H/t33-,34-,35-,36-;/m0./s1
